US04849138
(ii) Oxidation of 4-Nitrophenylphenyl Sulfide and Reuse
An amount of 21.4 g (0.08 mole) of the thus obtained 4-nitrophenylphenyl sulfone was dissolved in a two phase solvent composed of a mixture of 80 g of nitrobenzene and 80 g of water, and was reacted with sodium thiophenolate in the same manner as in Example 1.

reactant | 4-nitrophenylphenyl sulfone | [N+](=O)([O-])C1=CC=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C24H16N2O6S
reactant | nitrobenzene | 80 g | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | sodium thiophenolate | C1(=CC=CC=C1)[S-].[Na+]
solvent | water | 80 g | O | H2O
product | 4-Nitrophenylphenyl Sulfide | [N+](=O)([O-])C1=CC=C(C=C1)C1=C(C=CC=C1)SC1=C(C=CC=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C24H16N2O4S
